US07087594B2
In a mixture of 7.0 mL of tert-butanol and 1.75 mL of N,N-dimethylformamide was dissolved 1.75 g of 2-(6-methoxy-1-benzofuran-5-yl)-1-ethanol, and 2.2 g of 1-chloroacetylpiperidine and 1.54 g of potassium tert-butoxide were added to the solution under ice-cooling, after which the resulting mixture was stirred at the same temperature for 30 minutes and then at the room temperature for 2 hours. Water and ethyl acetate were added to the reaction mixture and the pH was adjusted to 1 with 6 mol/L hydrochloric acid, after which the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was dissolved in 10.5 mL of a 90% aqueous ethanol solution, followed by adding thereto 0.91 g of sodium hydroxide, and the resulting mixture was heated under reflux for 3 hours. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the pH was adjusted to 1 with 6 mol/L hydrochloric acid, after which the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. Diisopropyl ether was added to the residue, and the crystals precipitated were collected by filtration, washed with diisopropyl ether and then dried to obtain 1.42 g of 2-[2-(6-methoxy-1-benzofuran-5-yl)ethoxy]acetic acid as yellow crystals.

reactant | 2-(6-methoxy-1-benzofuran-5-yl)-1-ethanol | 1.75 g | COC1=CC2=C(C=CO2)C=C1CCO | C11H12O3
reactant | potassium tert-butoxide | 1.54 g | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | tert-butanol | 7.0 mL | C(C)(C)(C)O | C4H10O
solvent | N,N-dimethylformamide | 1.75 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(6-methoxy-1-benzofuran-5-yl)ethoxy]acetic acid | 1.42 g | COC1=CC2=C(C=CO2)C=C1CCOCC(=O)O | C13H14O5
